US04578381
2.2 Grams of 3-chloromethyl-6-methoxycarbostyril was dissolved in 20 ml of acetic anhydride, then 12 g of potassium acetate was added thereto and stirred at 60°-70° C. for 3 hours. The reaction mixture was poured in an ice-water and the crystals precipitated were collected by filtration. Recrystallized from acetone to obtain 2 g of 3-acetoxymethyl-6-methoxycarbostyril in the form of colorless prism-like crystals.

reactant | 3-chloromethyl-6-methoxycarbostyril | ClCC=1C(NC2=CC=C(C=C2C1)OC)=O | C11H10ClNO2
reactant | potassium acetate | 12 g | C(C)(=O)[O-].[K+]
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetoxymethyl-6-methoxycarbostyril | 2 g | C(C)(=O)OCC=1C(NC2=CC=C(C=C2C1)OC)=O | C13H13NO4
